US04221788
7-(4-chlorobenzyl)perhydroazepin-2-one
To an ice-cold solution of 4.47 g of 2-(4-chlorobenzyl)cyclohexanone in 100g of polyphosphoric acid add 2.6 g of sodium azide while stirring. Stir the mixture for another 1.5 hours at 0° and for a further 8 hours at room temperature, pour it into ice water and then extract it with methylene chloride. After drying the organic phase over sodium sulfate distill off the solvent to obtain 2.85 g of the title compound as a light brown oil.

reactant | 2-(4-chlorobenzyl)cyclohexanone | 4.47 g | ClC1=CC=C(CC2C(CCCC2)=O)C=C1 | C13H15ClO
reactant | sodium azide | 2.6 g | [N-]=[N+]=[N-].[Na+]
product | 7-(4-chlorobenzyl)perhydroazepin-2-one | 2.85 g | ClC1=CC=C(CC2CCCCC(N2)=O)C=C1 | C13H16ClNO
